US07517991B2
To a solution of 4-(N-(4-chlorobenzyl)aminomethyl)-1-t-butoxycarbonylpiperidine(300 mg, 0.89 mmol) and triethylamine (180 mg, 1.78 mmol) in tetrahydrofuran (15 mL) stirring at room temperature under argon, was added acetic anhydride (109 mg, 1.07 mmol) in a single portion. After 16 h the mixture was evaporated under vacuum. Column chromatography (silica gel, 65% ethyl acetate in hexane) provided 4-(N-acetyl-N-(4-chlorobenzyl)aminomethyl)-1-t-butoxycarbonylpiperidine (309 mg, 91% yield). TLC Rf=0.30, 65% ethyl acetate in hexane.

reactant | 4-(N-(4-chlorobenzyl)aminomethyl)-1-t-butoxycarbonylpiperidine | 0.89 mmol, 300 mg | ClC1=CC=C(CNCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C18H27ClN2O2
reactant | triethylamine | 1.78 mmol, 180 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.07 mmol, 109 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-(N-acetyl-N-(4-chlorobenzyl)aminomethyl)-1-t-butoxycarbonylpiperidine | 309 mg, 91% yield | C(C)(=O)N(CC1=CC=C(C=C1)Cl)CC1CCN(CC1)C(=O)OC(C)(C)C | C20H29ClN2O3
